### PR TITLE
Subcategories

### PR DESCRIPTION
**Pull request by fredrik-bakke**

### CODE REVIEW

File: src/category-theory/subcategories.lagda.md [hunk 1]
```diff
@@ -0,0 +1,398 @@
...
+          ( λ q → is-iso-Subcategory C P (id-hom-Category C , q))) ∘
+        ( ind-singleton-is-prop
+          ( is-in-obj-inclusion-obj-Subcategory C P x)
+          ( is-prop-is-in-obj-Subcategory C P
+            ( inclusion-obj-Subcategory C P x))
+          ( _)
+          ( is-iso-id-hom-Precategory (precategory-Subcategory C P) {x})))
+      ( inclusion-hom-Subcategory C P x y f , is-iso-f)
+      ( is-in-obj-inclusion-obj-Subcategory C P y)
+      ( is-in-hom-inclusion-hom-Subcategory C P x y f)
```
Comment (fredrik-bakke) [inline src/category-theory/subcategories.lagda.md:395]: This proof feels a bit stupid. For instance, lines 378-392 is just a double singleton induction. So if you have any improvements to suggest I'd love to hear it!

File: src/foundation/singleton-induction.lagda.md [hunk 2]
```diff
@@ -83,7 +85,43 @@ abstract
   is-contr-is-singleton :
     {l1 : Level} (A : UU l1) (a : A) →
     ({l2 : Level} → is-singleton l2 A a) → is-contr A
-  is-contr-is-singleton A a S = is-contr-ind-singleton A a (λ P → pr1 (S P))
+  is-contr-is-singleton A a S = is-contr-ind-singleton A a (pr1 ∘ S)
+```
+
+### Singleton induction for propositions
```
Comment (EgbertRijke) [inline src/foundation/singleton-induction.lagda.md:91]: Let's call this subsingleton induction. That has a nice ring to it.

Then `ind-singleton-is-prop` would become `ind-subsingleton`.

Comment (EgbertRijke) [reply src/foundation/singleton-induction.lagda.md:91]: If we're going to call it subsingleton induction, then we can also easily give this principle its own file.

Comment (fredrik-bakke) [reply src/foundation/singleton-induction.lagda.md:91]: Ah, good idea!

File: src/foundation/singleton-induction.lagda.md [hunk 3]
```diff
@@ -83,7 +85,43 @@ abstract
...
+
+```agda
+abstract
+  ind-singleton-is-prop :
+    {l1 l2 : Level} {A : UU l1} (a : A) (is-prop-A : is-prop A)
+    (B : A → UU l2) → B a → (x : A) → B x
```
Comment (EgbertRijke) [inline src/foundation/singleton-induction.lagda.md:97]: This principle would make more sense on its own if it would be formulated as follows:

```suggestion
  ind-subsingleton :
    {l1 l2 : Level} {A : UU l1} (is-prop-A : is-prop A)
    (B : A → UU l2) → (a : A) → B a → (x : A) → B x
```

Then it takes as an argument a type with a proof that it is a proposition, and it concludes a induction principle that for every B you can construct a section of B if you can find an element in one of its fibers.

File: src/foundation/singleton-induction.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation/singleton-induction.lagda.md]: Let me know what you think of the new formulation. Both files probably deserve a short explanation of the induction principle

File: src/foundation/subsingleton-induction.lagda.md [hunk 4]
```diff
@@ -0,0 +1,97 @@
...
+open import foundation-core.propositions
+open import foundation-core.sections
+open import foundation-core.transport-along-identifications
+```
+
+</details>
+
+## Idea
+
+**Subsingleton induction** on a type `A` equipped with an element `a : A` is a
```
Comment (EgbertRijke) [inline src/foundation/subsingleton-induction.lagda.md:28]: The way I understand subsingleton induction is that it it just on a type, not on a type equipped with an element.

Comment (fredrik-bakke) [reply src/foundation/subsingleton-induction.lagda.md]: yeah, sorry, I just fixed it

File: src/category-theory/categories.lagda.md [hunk 5]
```diff
@@ -176,7 +180,7 @@ module _
       ( is-category-Category C x y)
       ( is-set-iso-Precategory (precategory-Category C))
 
-  obj-Category-1-Type : 1-Type l1
-  pr1 obj-Category-1-Type = obj-Category C
-  pr2 obj-Category-1-Type = is-1-type-obj-Category
+  obj-1-type-Category : 1-Type l1
+  pr1 obj-1-type-Category = obj-Category C
+  pr2 obj-1-type-Category = is-1-type-obj-Category
```
Comment (EgbertRijke) [inline src/category-theory/categories.lagda.md:185]: Good call!

File: src/category-theory/full-subcategories.lagda.md [hunk 6]
```diff
@@ -0,0 +1,274 @@
...
+Full-Subcategory l3 C = Full-Subprecategory l3 (precategory-Category C)
+
+module _
+  {l1 l2 l3 : Level}
+  (C : Category l1 l2)
+  (P : Full-Subcategory l3 C)
+  where
+
+  subtype-obj-Full-Subcategory : subtype l3 (obj-Category C)
+  subtype-obj-Full-Subcategory = P
```
Comment (EgbertRijke) [inline src/category-theory/full-subcategories.lagda.md:59]: shouldn't all of these be defined as `...-Full-Subprecategory (precategory-Category C) P`. Now you are redefining them with the same definitions as for full subprecategories.

File: src/category-theory/full-subcategories.lagda.md [hunk 7]
```diff
@@ -0,0 +1,274 @@
...
+
+```agda
+module _
+  {l1 l2 l3 : Level}
+  (C : Category l1 l2)
+  (P : Full-Subcategory l3 C)
+  where
+
+  hom-set-Full-Subcategory : (x y : obj-Full-Subcategory C P) → Set l2
+  hom-set-Full-Subcategory x y =
```
Comment (EgbertRijke) [inline src/category-theory/full-subcategories.lagda.md:94]: Same comment here

File: src/category-theory/full-subcategories.lagda.md [hunk 8]
```diff
@@ -0,0 +1,274 @@
...
+```agda
+module _
+  {l1 l2 l3 : Level}
+  (C : Category l1 l2)
+  (P : Full-Subcategory l3 C)
+  where
+
+  inclusion-map-Full-Subcategory :
+    map-Category (category-Full-Subcategory C P) C
+  pr1 inclusion-map-Full-Subcategory = inclusion-obj-Full-Subcategory C P
```
Comment (EgbertRijke) [inline src/category-theory/full-subcategories.lagda.md:224]: Same comment here, and for the rest of the file I presume

File: src/category-theory/full-subcategories.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/category-theory/full-subcategories.lagda.md:59]: Yup. I got a bit impatient with this file 😅 I'll fix it

**Comment by EgbertRijke** [comment]
Sorry for my patchy review work. I've been doing it in between other things. I'll do a more thorough job tonight.

File: src/category-theory/full-subcategories.lagda.md [hunk 9]
```diff
@@ -0,0 +1,274 @@
...
+open import foundation.subtypes
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+A **subcategory** of a [precategory](category-theory.precategories.md) `C`
+consists of a [subtype](foundation-core.subtypes.md) `P₀` of the objects of `C`.
```
Comment (EgbertRijke) [inline src/category-theory/full-subcategories.lagda.md:36]:
```suggestion
A **full subcategory** of a [precategory](category-theory.precategories.md) `C`
consists of a [subtype](foundation-core.subtypes.md) `P₀` of the objects of `C`.
```

File: src/category-theory/full-subcategories.lagda.md [hunk 10]
```diff
@@ -0,0 +1,274 @@
...
+
+Alternatively, we say that a [subcategory](category-theory.subcategories.md)
+**is full** if for every two objects `X` and `Y` in the subcategory, the subtype
+of homomorphisms from `X` to `Y` in the subcategory is
+[full](foundation.full-subtypes.md).
+
+## Definition
+
+### Subprecategories
```
Comment (EgbertRijke) [inline src/category-theory/full-subcategories.lagda.md:45]:
```suggestion
### Full subprecategories
```

File: src/category-theory/full-subcategories.lagda.md [hunk 11]
```diff
@@ -0,0 +1,274 @@
...
+module _
+  {l1 l2 l3 : Level}
+  (C : Category l1 l2)
+  (P : Full-Subcategory l3 C)
+  where
+
+  category-Full-Subcategory : Category (l1 ⊔ l3) l2
+  pr1 category-Full-Subcategory = precategory-Full-Subcategory C P
+  pr2 category-Full-Subcategory = is-category-precategory-Full-Subcategory C P
+```
```
Comment (EgbertRijke) [inline src/category-theory/full-subcategories.lagda.md:208]: I would just put this under `## Definitions` in a section `### The underlying category of a full subcategory`.

File: src/category-theory/full-subprecategories.lagda.md [hunk 12]
```diff
@@ -0,0 +1,300 @@
...
+open import foundation.subtypes
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+A **subprecategory** of a [precategory](category-theory.precategories.md) `C`
+consists of a [subtype](foundation-core.subtypes.md) `P₀` of the objects of `C`.
```
Comment (EgbertRijke) [inline src/category-theory/full-subprecategories.lagda.md:37]:
```suggestion
A **full subprecategory** of a [precategory](category-theory.precategories.md) `C`
consists of a [subtype](foundation-core.subtypes.md) `P₀` of the objects of `C`.
```

File: src/category-theory/full-subprecategories.lagda.md [hunk 13]
```diff
@@ -0,0 +1,300 @@
...
+
+Alternatively, we say that a
+[subprecategory](category-theory.subprecategories.md) **is full** if for every
+two objects `X` and `Y` in the subprecategory, the subtype of homomorphisms from
+`X` to `Y` in the subprecategory is [full](foundation.full-subtypes.md).
```
Comment (EgbertRijke) [inline src/category-theory/full-subprecategories.lagda.md:42]:
```suggestion
two objects `X` and `Y` in the subprecategory, the subtype of morphisms from
`X` to `Y` in the subprecategory is [full](foundation.full-subtypes.md).
```

File: src/category-theory/full-subprecategories.lagda.md [hunk 14]
```diff
@@ -0,0 +1,300 @@
...
+
+## Definition
+
+### Subprecategories
```
Comment (EgbertRijke) [inline src/category-theory/full-subprecategories.lagda.md:46]:
```suggestion
### Full subprecategories
```

File: src/category-theory/full-subprecategories.lagda.md [hunk 15]
```diff
@@ -0,0 +1,300 @@
...
+    is-prop-is-in-subtype subtype-obj-Full-Subprecategory
+
+  is-in-obj-inclusion-obj-Full-Subprecategory :
+    (x : obj-Full-Subprecategory) →
+    is-in-obj-Full-Subprecategory (inclusion-obj-Full-Subprecategory x)
+  is-in-obj-inclusion-obj-Full-Subprecategory =
+    is-in-subtype-inclusion-subtype subtype-obj-Full-Subprecategory
+```
+
+### The precategory structure of a full subprecategory
```
Comment (EgbertRijke) [inline src/category-theory/full-subprecategories.lagda.md:85]: Wouldn't it sound better to call this section "The underlying precategory of a full subprecategory"?

File: src/category-theory/full-subprecategories.lagda.md [hunk 16]
```diff
@@ -0,0 +1,300 @@
...
+  pr1 inclusion-Full-Subprecategory =
+    inclusion-obj-Full-Subprecategory C P
+  pr1 (pr2 inclusion-Full-Subprecategory) = id
+  pr2 (pr2 inclusion-Full-Subprecategory) =
+    is-functor-inclusion-Full-Subprecategory
+```
+
+## Properties
+
+### A full subprecategory of a category is a category
```
Comment (EgbertRijke) [inline src/category-theory/full-subprecategories.lagda.md:231]: This feels out of place to me... Can't this result be stated and proven directly in `full-subcategories`?

File: src/category-theory/fully-faithful-functors-precategories.lagda.md [hunk 17]
```diff
@@ -0,0 +1,247 @@
...
+
+A [functor](category-theory.functors-precategories.md) between
+[precategories](category-theory.precategories.md) `C` and `D` is **fully
+faithful** if it's an [equivalence](foundation-core.equivalences.md) on
+hom-sets, or equivalently, a
+[full](category-theory.full-functors-precategories.md) and
+[faithful](category-theory.faithful-functors-precategories.md) functor on
+precategories.
+
+## Definition
```
Comment (EgbertRijke) [inline src/category-theory/fully-faithful-functors-precategories.lagda.md:36]:
```suggestion
## Definitions
```

File: src/category-theory/full-subprecategories.lagda.md [hunk 18]
```diff
@@ -0,0 +1,300 @@
...
+
+A **subprecategory** of a [precategory](category-theory.precategories.md) `C`
+consists of a [subtype](foundation-core.subtypes.md) `P₀` of the objects of `C`.
+
+Alternatively, we say that a
+[subprecategory](category-theory.subprecategories.md) **is full** if for every
+two objects `X` and `Y` in the subprecategory, the subtype of homomorphisms from
+`X` to `Y` in the subprecategory is [full](foundation.full-subtypes.md).
+
+## Definition
```
Comment (EgbertRijke) [inline src/category-theory/full-subprecategories.lagda.md:44]:
```suggestion
## Definitions
```

File: src/category-theory/full-subcategories.lagda.md [hunk 19]
```diff
@@ -0,0 +1,274 @@
...
+
+A **subcategory** of a [precategory](category-theory.precategories.md) `C`
+consists of a [subtype](foundation-core.subtypes.md) `P₀` of the objects of `C`.
+
+Alternatively, we say that a [subcategory](category-theory.subcategories.md)
+**is full** if for every two objects `X` and `Y` in the subcategory, the subtype
+of homomorphisms from `X` to `Y` in the subcategory is
+[full](foundation.full-subtypes.md).
+
+## Definition
```
Comment (EgbertRijke) [inline src/category-theory/full-subcategories.lagda.md:43]:
```suggestion
## Definitions
```

File: src/category-theory/fully-faithful-functors-precategories.lagda.md [hunk 20]
```diff
@@ -0,0 +1,247 @@
+# Fully faithful functors between precategories
```
Comment (EgbertRijke) [inline src/category-theory/fully-faithful-functors-precategories.lagda.md:1]: Would you mind creating `categories.fully-faithful-functors-categories.lagda.md` as well?

File: src/category-theory/fully-faithful-functors-precategories.lagda.md [hunk 21]
```diff
@@ -0,0 +1,247 @@
...
+      ( obj-fully-faithful-functor-Precategory F x)
+      ( obj-fully-faithful-functor-Precategory F y) →
+    hom-Precategory C x y
+  map-inv-hom-fully-faithful-functor-Precategory F =
+    map-equiv (inv-equiv-hom-fully-faithful-functor-Precategory F)
+```
+
+## Properties
+
+### Fully faithful functors of precategories are full and faithful functors
```
Comment (EgbertRijke) [inline src/category-theory/fully-faithful-functors-precategories.lagda.md:167]: This section contains more than a proof that fully faithful functors are both full and faithful. Perhaps separate out the part that shows that a functor that is both full and faithful is fully faithful into its own section `### Functors that are both full and faithful are fully faithful`.

File: src/category-theory/full-subprecategories.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/category-theory/full-subprecategories.lagda.md:231]: I agree, but this mirrored your definition for full large subprecategories :)
I'll change both

File: src/category-theory/fully-faithful-functors-precategories.lagda.md (hunk 21 above)
Comment (fredrik-bakke) [reply src/category-theory/fully-faithful-functors-precategories.lagda.md:167]: It's supposed to be read like (fully faithful functors) are (full and faithful functors), i.e. those classes of functors coincide.

File: src/category-theory/fully-faithful-maps-precategories.lagda.md [hunk 22]
```diff
@@ -0,0 +1,235 @@
...
+```
+
+</details>
+
+## Idea
+
+A [map](category-theory.maps-precategories.md) between
+[precategories](category-theory.precategories.md) `C` and `D` is **fully
+faithful** if it's an [equivalence](foundation-core.equivalences.md) on
+hom-sets, or equivalently, a [full](category-theory.full-maps-precategories.md)
```
Comment (EgbertRijke) [inline src/category-theory/fully-faithful-maps-precategories.lagda.md:30]: On other occasions you have linked to sets when you mentioned `hom-sets`. I don't really mind that it's not hyperlinked here, but if you do then you can change it.

File: src/category-theory/fully-faithful-maps-precategories.lagda.md [hunk 23]
```diff
@@ -0,0 +1,235 @@
...
+and [faithful](category-theory.faithful-maps-precategories.md) map on
+precategories.
+
+## Definition
+
+### The predicate of being fully faithful on maps between precategories
```
Comment (EgbertRijke) [inline src/category-theory/fully-faithful-maps-precategories.lagda.md:36]: To me `### The predicate of being a fully faithful map between precategories` sounds more fluent

File: src/category-theory/fully-faithful-maps-precategories.lagda.md [hunk 24]
```diff
@@ -0,0 +1,235 @@
...
+      ( obj-fully-faithful-map-Precategory F x)
+      ( obj-fully-faithful-map-Precategory F y) →
+    hom-Precategory C x y
+  map-inv-hom-fully-faithful-map-Precategory F =
+    map-equiv (inv-equiv-hom-fully-faithful-map-Precategory F)
+```
+
+## Properties
+
+### Fully faithful maps of precategories are full and faithful maps
```
Comment (EgbertRijke) [inline src/category-theory/fully-faithful-maps-precategories.lagda.md:159]: I would say here again that the section header suggests only one direction.

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 25]
```diff
@@ -0,0 +1,178 @@
+# Isomorphism induction in categories
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:1]: Awesome! It's a great idea to have this file 👌

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 26]
```diff
@@ -0,0 +1,178 @@
...
+open import foundation-core.sections
+open import foundation-core.singleton-induction
+```
+
+</details>
+
+## Idea
+
+**Isomorphism induction** in a category `𝒞` is the principle asserting that for
+any type family
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:33]: The object `A` needs to be introduced

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 27]
```diff
@@ -0,0 +1,178 @@
...
+
+### Contractibility of the total space of isomorphisms implies isomorphism induction
+
+```agda
+module _
+  {l1 l2 : Level} (C : Category l1 l2) {A : obj-Category C}
+  where
+
+  abstract
+    induction-principle-iso-is-contr-total-iso-Category :
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:88]: This actually works for precategories too

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 28]
```diff
@@ -0,0 +1,178 @@
...
+
+### Isomorphism induction implies contractibility of the total space of isomorphisms
+
+```agda
+module _
+  {l1 l2 : Level} (C : Category l1 l2) {A : obj-Category C}
+  where
+
+  abstract
+    is-contr-total-equiv-induction-principle-iso-Category :
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:113]: This one works for precategories too

File: src/category-theory/fully-faithful-functors-precategories.lagda.md (hunk 21 above)
Comment (fredrik-bakke) [reply src/category-theory/fully-faithful-functors-precategories.lagda.md:167]: How about "Fully faithful functors are the same as full and faithful functors"

File: src/category-theory/fully-faithful-maps-precategories.lagda.md (hunk 23 above)
Comment (fredrik-bakke) [reply src/category-theory/fully-faithful-maps-precategories.lagda.md:36]: I introduced this phrasing because of embeddings. "The predicate of being an embedding on maps" is different to "the predicate of being an embedding map". Embeddings are functorial.

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 29]
```diff
@@ -0,0 +1,178 @@
...
+  where
+
+  abstract
+    induction-principle-iso-is-contr-total-iso-Category :
+      is-contr (Σ (obj-Category C) (iso-Category C A)) →
+      {l : Level} →
+      (P : (Σ (obj-Category C) (iso-Category C A)) → UU l) →
+      induction-principle-iso-Category C (λ B e → P (B , e))
+    induction-principle-iso-is-contr-total-iso-Category c P =
+      section-left-factor
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:94]: I'm pretty sure you can get this proof directly by applying [is-identity-system-is-torsorial](https://unimath.github.io/agda-unimath/foundation.identity-systems.html#1892)

Perhaps you need to uncurry `P` but why don't you uncurry `P` anyway? I think it's better if it takes two arguments instead of a pair of arguments, because you get better communication with the parts about identity systems and torsorial type families that way.

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 30]
```diff
@@ -0,0 +1,178 @@
...
+
+```agda
+module _
+  {l1 l2 : Level} (C : Category l1 l2) {A : obj-Category C}
+  where
+
+  abstract
+    is-contr-total-equiv-induction-principle-iso-Category :
+      ( {l : Level} (P : (Σ (obj-Category C) (iso-Category C A)) → UU l) →
+        induction-principle-iso-Category C (λ B e → P (B , e))) →
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:115]: This hypothesis should say `is-identity-system iso-Category ...`

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 31]
```diff
@@ -0,0 +1,178 @@
...
+      is-contr (Σ (obj-Category C) (iso-Category C A))
+    is-contr-total-equiv-induction-principle-iso-Category ind =
+      is-contr-is-singleton
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:118]: This proof is redoing [is-torsorial-is-identity-system](https://unimath.github.io/agda-unimath/foundation.identity-systems.html#2356)

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 32]
```diff
@@ -0,0 +1,178 @@
...
+  {l1 l2 l3 : Level} (C : Category l1 l2) {A : obj-Category C}
+  (P : (B : obj-Category C) (e : iso-Category C A B) → UU l3)
+  where
+
+  abstract
+    is-identity-system-iso-Category : section (ev-id-iso-Category C P)
+    is-identity-system-iso-Category =
+      induction-principle-iso-is-contr-total-iso-Category C
+        ( is-contr-total-iso-Category C _)
+        ( λ t → P (pr1 t) (pr2 t))
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:141]: This definition should use the definition of identity systems instead of reprogramming it by hand

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 33]
```diff
@@ -0,0 +1,178 @@
...
+    is-equiv-left-factor-htpy
+      ( ev-point (A , id-iso-Category C))
+      ( ev-id-iso-Category C P)
+      ( ev-pair)
+      ( triangle-ev-id-iso-Category C (λ u → P (pr1 u) (pr2 u)))
+      ( dependent-universal-property-contr-is-contr
+        ( A , id-iso-Category C)
+        ( is-contr-total-iso-Category C A)
+        ( λ u → P (pr1 u) (pr2 u)))
+      ( is-equiv-ev-pair)
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:172]: Here you are reproving the dependent universal property of identity systems by hand in a special case. Instead, it would be much better to use what's available:

https://unimath.github.io/agda-unimath/foundation.universal-property-identity-systems.html

**Comment by fredrik-bakke** [comment]
You're right, the isomorphism induction file needs some work. Thanks for pointing it out!

File: src/category-theory/isomorphism-induction-categories.lagda.md [hunk 34]
```diff
@@ -0,0 +1,178 @@
...
+
+  is-contr-map-ev-id-iso-Category :
+    is-contr-map (ev-id-iso-Category C P)
+  is-contr-map-ev-id-iso-Category =
+    is-contr-map-is-equiv is-equiv-ev-id-iso-Category
+```
```
Comment (EgbertRijke) [inline src/category-theory/isomorphism-induction-categories.lagda.md:178]: One reason why I'm pointing out that all of this work has already been done more generally, is that it would be good to use it. If you as a maintainer don't use it, then who will?

Comment (fredrik-bakke) [reply src/category-theory/isomorphism-induction-categories.lagda.md:178]: Thanks for the constructive comments, this was sloppy on my part. Let me do a proper refactoring of the file.

File: src/category-theory/isomorphisms-in-large-categories.lagda.md [hunk 35]
```diff
@@ -195,9 +195,17 @@ module _
     is-contr (Σ (obj-Large-Category C l1) (iso-Large-Category C X))
   is-contr-total-iso-Large-Category =
     is-contr-equiv'
-      ( Σ (obj-Large-Category C l1) (λ Y → X ＝ Y))
+      ( Σ (obj-Large-Category C l1) (X ＝_))
```
Comment (EgbertRijke) [inline src/category-theory/isomorphisms-in-large-categories.lagda.md:198]: I like the previous version better. I'm still not a fan of partial underscore notation.

Comment (fredrik-bakke) [reply src/category-theory/isomorphisms-in-large-categories.lagda.md:198]: I don't know, I think the new version more clearly highlights the variance of the construction.

File: src/category-theory/preunivalent-categories.lagda.md [hunk 36]
```diff
@@ -0,0 +1,218 @@
...
+specifically, an equality between objects gives rise to an isomorphism between
+them, by the J-rule. A precategory is a category if this function, called
+`iso-eq`, is an embedding. In particular. being preunivalent is a
+[proposition](foundation-core.propositions.md) since `is-emb` is a proposition.
+
+The idea of preunivalence is that it is a common generalization univalent
+mathematics and mathematics with Axiom K. Hence preunivalent categories
+generalize both [categories](category-theory.categories.md) in the sense we have
+defined them (as univalent categories), and strict categories, which are
+precategories whose objects form a [set](foundation-core.sets.md).
```
Comment (EgbertRijke) [inline src/category-theory/preunivalent-categories.lagda.md:39]: I saw that you referred to Axiom L in the `## See also` section, but I think the connection with axiom L is important enough that it should also be brought up here in the `## Idea` section

File: src/category-theory/preunivalent-categories.lagda.md [hunk 37]
```diff
@@ -0,0 +1,218 @@
+# Preunivalent categories
```
Comment (EgbertRijke) [inline src/category-theory/preunivalent-categories.lagda.md:1]: Very nice addition to the library. Well done for finding this definition!

File: src/category-theory/preunivalent-categories.lagda.md [hunk 38]
```diff
@@ -0,0 +1,218 @@
...
+them, by the J-rule. A precategory is a category if this function, called
+`iso-eq`, is an embedding. In particular. being preunivalent is a
+[proposition](foundation-core.propositions.md) since `is-emb` is a proposition.
+
+The idea of preunivalence is that it is a common generalization univalent
+mathematics and mathematics with Axiom K. Hence preunivalent categories
+generalize both [categories](category-theory.categories.md) in the sense we have
+defined them (as univalent categories), and strict categories, which are
+precategories whose objects form a [set](foundation-core.sets.md).
+
```
Comment (EgbertRijke) [inline src/category-theory/preunivalent-categories.lagda.md:40]: I like this idea a lot. Can we show that being preunivalent is sufficient for the Yoneda embedding to be an embedding?

Comment (fredrik-bakke) [reply src/category-theory/preunivalent-categories.lagda.md:40]: Ooooo

File: src/category-theory/preunivalent-categories.lagda.md [hunk 39]
```diff
@@ -0,0 +1,218 @@
...
+## Definition
```
Comment (EgbertRijke) [inline src/category-theory/preunivalent-categories.lagda.md:41]:
```suggestion
## Definitions
```

File: src/category-theory/preunivalent-categories.lagda.md [hunk 40]
```diff
@@ -0,0 +1,218 @@
...
+  {x y : obj-Preunivalent-Category C}
+  (f : hom-Preunivalent-Category C x y)
+  (z : obj-Preunivalent-Category C) →
+  hom-Preunivalent-Category C z x →
+  hom-Preunivalent-Category C z y
+postcomp-hom-Preunivalent-Category C =
+  postcomp-hom-Precategory (precategory-Preunivalent-Category C)
+```
+
+### Equalities give rise to homomorphisms
```
Comment (EgbertRijke) [inline src/category-theory/preunivalent-categories.lagda.md:170]:
```suggestion
### Equalities give rise to morphisms
```

I would even prefer to say "Equalities induce morphisms"

File: src/category-theory/preunivalent-categories.lagda.md [hunk 41]
```diff
@@ -0,0 +1,218 @@
...
+  hom-inv-eq-Preunivalent-Category :
+    (x y : obj-Preunivalent-Category C) →
+    x ＝ y → hom-Preunivalent-Category C y x
+  hom-inv-eq-Preunivalent-Category =
+    hom-inv-eq-Precategory (precategory-Preunivalent-Category C)
+```
+
+## Properties
+
+### The objects in a category form a 1-type
```
Comment (EgbertRijke) [inline src/category-theory/preunivalent-categories.lagda.md:193]:
```suggestion
### The objects in a preunivalent category form a 1-type
```

File: src/category-theory/preunivalent-categories.lagda.md [hunk 42]
```diff
@@ -0,0 +1,218 @@
...
+      ( is-set-iso-Precategory (precategory-Preunivalent-Category C))
+
+  obj-1-type-Preunivalent-Category : 1-Type l1
+  pr1 obj-1-type-Preunivalent-Category = obj-Preunivalent-Category C
+  pr2 obj-1-type-Preunivalent-Category = is-1-type-obj-Preunivalent-Category
+```
+
+## See also
+
+- [Axiom L](foundation.axiom-l.md)
```
Comment (EgbertRijke) [inline src/category-theory/preunivalent-categories.lagda.md:218]: Would you say that a better name for Axiom L is "preunivalence axiom"?

Comment (fredrik-bakke) [reply src/category-theory/preunivalent-categories.lagda.md:218]: That's what Peter called it when I asked him at least

File: src/category-theory/subcategories.lagda.md [hunk 43]
```diff
@@ -0,0 +1,397 @@
...
+```
+
+</details>
+
+## Idea
+
+A **subcategory** of a [category](category-theory.categories.md) `C` is simply a
+[subprecategory](category-theory.subprecategories.md). It consists of a
+[subtype](foundation-core.subtypes.md) `P₀` of the objects of `C`, and a family
+of subtypes `P₁`
```
Comment (EgbertRijke) [inline src/category-theory/subcategories.lagda.md:38]: I think this sentence would read better if `P₁` isn't repeated, so I would delete this instance

```suggestion
of subtypes
```

File: src/category-theory/subcategories.lagda.md [hunk 44]
```diff
@@ -0,0 +1,397 @@
...
+  is-prop-contains-id-subtype-Category :
+    is-prop contains-id-subtype-Category
+  is-prop-contains-id-subtype-Category =
+    is-prop-contains-id-subtype-Precategory (precategory-Category C) P₀ P₁
+
+  contains-id-prop-subtype-Category : Prop (l1 ⊔ l3 ⊔ l4)
+  contains-id-prop-subtype-Category =
+    contains-id-prop-subtype-Precategory (precategory-Category C) P₀ P₁
+
+  is-closed-under-composition-subtype-Category : UU (l1 ⊔ l2 ⊔ l3 ⊔ l4)
```
Comment (EgbertRijke) [inline src/category-theory/subcategories.lagda.md:71]: Hey man, you made me revert my change to `composition`:/

File: src/category-theory/subcategories.lagda.md [hunk 45]
```diff
@@ -0,0 +1,397 @@
...
+
+  is-closed-under-composition-Subcategory :
+    is-closed-under-composition-subtype-Category C
+      ( subtype-obj-Subcategory)
+      ( subtype-hom-Subcategory)
+  is-closed-under-composition-Subcategory =
+    is-closed-under-composition-Subprecategory (precategory-Category C) P
+```
+
+### The precategory structure of a subcategory
```
Comment (EgbertRijke) [inline src/category-theory/subcategories.lagda.md]: To me, the following sounds better:

```suggestion
### The underlying precategory of a subcategory
```

File: src/category-theory/subcategories.lagda.md (hunk 44 above)
Comment (fredrik-bakke) [reply src/category-theory/subcategories.lagda.md:71]: whoops

File: src/category-theory/subcategories.lagda.md [hunk 46]
```diff
@@ -0,0 +1,397 @@
...
+    left-unit-law-comp-hom-Subprecategory (precategory-Category C) P
+
+  right-unit-law-comp-hom-Subcategory :
+    {x y : obj-Subcategory C P}
+    (f : hom-Subcategory C P x y) →
+    comp-hom-Subcategory {x} {x} {y} f (id-hom-Subcategory {x}) ＝ f
+  right-unit-law-comp-hom-Subcategory =
+    right-unit-law-comp-hom-Subprecategory (precategory-Category C) P
+
+  associative-composition-structure-Subcategory :
```
Comment (EgbertRijke) [inline src/category-theory/subcategories.lagda.md:262]: 🥲

Comment (fredrik-bakke) [reply src/category-theory/subcategories.lagda.md:262]: What's wrong? 🙃

File: src/category-theory/subcategories.lagda.md [hunk 47]
```diff
@@ -0,0 +1,397 @@
...
+    is-emb
+      ( obj-functor-Precategory
+        ( precategory-Subcategory C P)
+        ( precategory-Category C)
+        ( inclusion-Subcategory C P))
+  is-emb-obj-inclusion-Category =
+    is-emb-obj-inclusion-Subprecategory (precategory-Category C) P
+```
+
+### Subcategories are categories
```
Comment (EgbertRijke) [inline src/category-theory/subcategories.lagda.md:354]: If it would be possible, I would put this under `## Definitions`

File: src/category-theory/subcategories.lagda.md (hunk 46 above)
Comment (EgbertRijke) [reply src/category-theory/subcategories.lagda.md:262]: I'm just happy with your choice of name for this entry:)

Comment (EgbertRijke) [reply src/category-theory/subcategories.lagda.md:262]: Imagine the horror if this would be called `associative-comp-structure`

File: src/foundation/complements-subtypes.lagda.md [hunk 48]
```diff
@@ -23,8 +23,8 @@ open import foundation-core.subtypes
 
 ## Idea
 
-The complement of a subtype `P` of `A` consists of the elements that are not in
-`P`.
+The **complement** of a [subtypes](foundation-core.subtypes.md) `P` of `A`
```
Comment (EgbertRijke) [inline src/foundation/complements-subtypes.lagda.md:26]:
```suggestion
The **complement** of a [subtype](foundation-core.subtypes.md) `P` of `A`
```

File: src/foundation/equivalence-induction.lagda.md [hunk 49]
```diff
@@ -81,22 +81,20 @@ module _
...
-#### Contractibility of the total space of equivalences implies equivalence induction
+### Contractibility of the total space of equivalences implies equivalence induction
 
 ```agda
 module _
   {l1 : Level} {A : UU l1}
   where
 
   abstract
-    is-identity-system-is-contr-total-equiv :
```
Comment (EgbertRijke) [inline src/foundation/equivalence-induction.lagda.md:94]: I like `is-identity-system` better. Why did you change it?

File: src/foundation/equivalence-induction.lagda.md [hunk 50]
```diff
@@ -81,22 +81,20 @@ module _
...
+    induction-principle-equivalences-is-contr-total-equiv :
       is-contr (Σ (UU l1) (λ X → A ≃ X)) →
       {l : Level} →
       (P : (Σ (UU l1) (λ X → A ≃ X)) → UU l) →
       induction-principle-equivalences (λ B e → P (B , e))
```
Comment (EgbertRijke) [inline src/foundation/equivalence-induction.lagda.md:96]: Ah, actually this should be using the definition of `is-identity-system`

Comment (EgbertRijke) [inline src/foundation/equivalence-induction.lagda.md:96]: Probably this old definition of `induction-principle-equivalences` was made before we vastly expanded the work on identity systems and torsorial type families... so I should look into refactoring this.

File: src/foundation/equivalence-induction.lagda.md [hunk 51]
```diff
@@ -108,13 +106,28 @@ module _
...
+        ( Σ (UU l1) (λ X → A ≃ X))
+        ( A , id-equiv)
+        ( λ P → section-comp
+          ( ev-id-equiv (λ X e → P (X , e)))
+          ( ev-pair {A = UU l1} {B = λ X → A ≃ X} {C = P})
+          ( ind-Σ , refl-htpy)
+          ( ind P))
+
   abstract
     is-contr-total-is-identity-system-equiv :
```
Comment (EgbertRijke) [inline src/foundation/equivalence-induction.lagda.md:132]: Given that this name is unchanged I really think that previous entry should be called `is-identity-system-is-contr-total-equiv`, to mark it clearly as the converse of this one.

And perhaps we could be using `is-torsorial` instead of `is-contr-total`, which would be even better.

Comment (EgbertRijke) [reply src/foundation/equivalence-induction.lagda.md:132]: (I'm not saying that we should do that in the entire library, but I'm just suggesting that for this file.)

File: src/foundation/equivalence-induction.lagda.md [hunk 52]
```diff
@@ -140,7 +153,7 @@ module _
   abstract
     is-identity-system-equiv : section (ev-id-equiv P)
     is-identity-system-equiv =
-      is-identity-system-is-contr-total-equiv
+      induction-principle-equivalences-is-contr-total-equiv
```
Comment (EgbertRijke) [inline src/foundation/equivalence-induction.lagda.md:156]: Doesn't this entry show that `is-identity-system` was a better choice of words?

File: src/foundation/singleton-induction.lagda.md [hunk 53]
```diff
@@ -23,12 +24,18 @@ open import foundation-core.transport-along-identifications
...
-Singleton induction on a type `A` equipped with a point `a : A` is a principle
-analogous to the induction principle of the unit type. A type satisfies
-singleton induction if and only if it is contractible.
+**Singleton induction** on a type `A` equipped with a point `a : A` is a
+principle analogous to the induction principle of the
+[unit type](foundation.unit-type.md). A type satisfies singleton induction if
+and only if it is [contractible](foundation-core.contractible-types.md).
+
+Singelton induction states that given a type family `B` over `A`, to construct a
+section of `B` it suffices to construct a section over `a`.
```
Comment (EgbertRijke) [inline src/foundation/singleton-induction.lagda.md:33]:
```suggestion
Singleton induction states that given a type family `B` over `A`, to construct a
section of `B` it suffices to construct an element in `B a`.
```

Note that a section is a choice of element of each fiber.

File: src/foundation/subsingleton-induction.lagda.md [hunk 54]
```diff
@@ -0,0 +1,100 @@
...
+**Subsingleton induction** on a type `A` is a slight variant of
+[singleton induction](foundation.singleton-induction.md) which in turn is a
+principle analogous to induction for the [unit type](foundation.unit-type.md).
+Subsingleton induction uses the observation that a type equipped with an element
+is [contractible](foundation-core.contractible-types.md) if and only if it is a
+[proposition](foundation-core.propositions.md).
+
+Subsingelton induction states that given a type family `B` over `A`, to
+construct a section of `B` it suffices to provide a section over `a` for some
+`a : A`.
```
Comment (EgbertRijke) [inline src/foundation/subsingleton-induction.lagda.md:37]:
```suggestion
Subsingelton induction states that given a type family `B` over `A`, to
construct a section of `B` it suffices to construct an element of `B a`.
```

File: src/foundation/subsingleton-induction.lagda.md [hunk 55]
```diff
@@ -0,0 +1,100 @@
...
+
+## Properties
+
+### Propositions satisfy subsingleton induction
+
+```agda
+abstract
+  ind-subsingleton :
+    {l1 l2 : Level} {A : UU l1} (is-prop-A : is-prop A)
+    (B : A → UU l2) → (a : A) → B a → (x : A) → B x
```
Comment (EgbertRijke) [inline src/foundation/subsingleton-induction.lagda.md:68]: I think it would be nice to make `a` implicit here. I saw also later on that you're just using an underscore when you apply singleton induction. Can we also make `B` implicit?

Comment (EgbertRijke) [reply src/foundation/subsingleton-induction.lagda.md:68]: Probably `a` can be implicit in a bunch more places.

File: src/foundation/subsingleton-induction.lagda.md [hunk 56]
```diff
@@ -0,0 +1,100 @@
...
+abstract
+  compute-ind-subsingleton :
+    {l1 l2 : Level} {A : UU l1}
+    (is-prop-A : is-prop A) (B : A → UU l2) (a : A) →
+    (ev-point a {B} ∘ ind-subsingleton is-prop-A B a) ~ id
+  compute-ind-subsingleton is-prop-A B a =
+    compute-ind-singleton a (is-proof-irrelevant-is-prop is-prop-A a) B
+```
+
+### A type satisfies subsingleton induction if and only if it is a proposition
```
Comment (EgbertRijke) [inline src/foundation/subsingleton-induction.lagda.md:81]: Beautiful!

File: src/category-theory/subcategories.lagda.md (hunk 46 above)
Comment (fredrik-bakke) [reply src/category-theory/subcategories.lagda.md:262]: The old way would be to name it `assoc-comp-str-Subcat` 🥲

File: src/foundation/symmetric-difference.lagda.md [hunk 57]
```diff
@@ -28,8 +28,9 @@ open import foundation-core.transport-along-identifications
 
 ## Idea
 
-The symmetric difference of two subtypes `A` and `B` is the subtypes that
-contains the elements that are either in `A` or in `B` but not in both.
+The **symmetric difference** of two [subtypes](foundation-core.subtypes.md) `A`
+and `B` is the subtypes that contains the elements that are either in `A` or in
+`B` but not in both.
```
Comment (EgbertRijke) [inline src/foundation/symmetric-difference.lagda.md:33]:
```suggestion
The **symmetric difference** of two [subtypes](foundation-core.subtypes.md) `A`
and `B` is the subtype that contains the elements that are either in `A` or in
`B` but not in both.
```

File: src/foundation/equivalence-induction.lagda.md (hunk 49 above)
Comment (fredrik-bakke) [reply src/foundation/equivalence-induction.lagda.md:94]: Because I was confused 😅

File: src/foundation/symmetric-difference.lagda.md [hunk 58]
```diff
@@ -52,6 +53,8 @@ module _
 
 ### The coproduct of two decidable subtypes is equivalent to their symmetric difference plus two times their intersection
 
+This is also known as the _inclusion-exclusion principle_.
```
Comment (EgbertRijke) [inline src/foundation/symmetric-difference.lagda.md:56]: This is indeed closely related to the inclusion-exclusion principle, but I'm not sure if it is exactly that. I know it as the number of elements in the union of A and B is the number of elements in A plus the number of elements in B minus the number of elements in their intersection. So the way I know it is about cardinalities.


Perhaps we could say:
```suggestion
This is closely related to the _inclusion-exclusion principle_.
```

File: src/foundation/equivalence-induction.lagda.md (hunk 49 above)
Comment (EgbertRijke) [reply src/foundation/equivalence-induction.lagda.md:94]: Yeah, after reading more of this file your confusion was very understandable. Sorry about that.

File: src/category-theory/subcategories.lagda.md (hunk 46 above)
Comment (EgbertRijke) [reply src/category-theory/subcategories.lagda.md:262]: Please don't do that.

Do we ever use `str` in our library?

Comment (fredrik-bakke) [reply src/category-theory/subcategories.lagda.md:262]: Only in variable names luckily

File: src/category-theory/subcategories.lagda.md (hunk 47 above)
Comment (EgbertRijke) [reply src/category-theory/subcategories.lagda.md:354]: Ok, that actually corresponds to how it is done for full large subcategories. If you're ok with moving it over, that's fine, but upon second thought I'd also be ok with it if you leave it here as it is. That saves you some work.

Comment (fredrik-bakke) [reply src/category-theory/subcategories.lagda.md:354]: I'll move it over :)
I should also point out that this section is not quite finished.

File: src/category-theory/preunivalent-categories.lagda.md (hunk 42 above)
Comment (fredrik-bakke) [reply src/category-theory/preunivalent-categories.lagda.md:218]: I can change that file in a subsequent PR if you agree

File: src/category-theory/fully-faithful-functors-precategories.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/category-theory/fully-faithful-functors-precategories.lagda.md:1]: Maybe this can wait until the current file is better fleshed out? Or do you want it for something at the moment?

File: src/category-theory/preunivalent-categories.lagda.md (hunk 42 above)
Comment (EgbertRijke) [reply src/category-theory/preunivalent-categories.lagda.md:218]: Yeah, it is a reasonable name. Let's do that in a later pull request 👍

File: src/category-theory/fully-faithful-functors-precategories.lagda.md (hunk 20 above)
Comment (EgbertRijke) [reply src/category-theory/fully-faithful-functors-precategories.lagda.md:1]: No it's not urgent, but I imagine it can be annoying that once it is needed and you see it's there for precategories but not for categories. Then you have to make it while being annoyed 😅

Anyway, yeah, you don't have to do it now.

File: src/foundation/singleton-induction.lagda.md (hunk 53 above)
Comment (fredrik-bakke) [reply src/foundation/singleton-induction.lagda.md:33]: Fixed. I may note that the previous terminology was not wrong, but the suggested one is probably less confusing to newcomers

File: src/category-theory/fully-faithful-functors-precategories.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/category-theory/fully-faithful-functors-precategories.lagda.md:1]: That's true. But conversely, someone may come along and see that theorems are proved for fully faithful functors of precategories and not categories at a later stage, and then it may be harder to make them consistent with one another.

File: src/category-theory/preunivalent-categories.lagda.md (hunk 38 above)
Comment (fredrik-bakke) [reply src/category-theory/preunivalent-categories.lagda.md:40]: Future work :)

File: src/foundation/equivalence-induction.lagda.md (hunk 50 above)
Comment (fredrik-bakke) [reply src/foundation/equivalence-induction.lagda.md]: not sure I fulfilled your wishes completely, but I'll see what you say in your next review

File: src/category-theory/preunivalent-categories.lagda.md (hunk 36 above)
Comment (fredrik-bakke) [reply src/category-theory/preunivalent-categories.lagda.md:39]: I'll do this in a subsequent PR if you don't mind :)

File: src/category-theory/fully-faithful-maps-precategories.lagda.md (hunk 23 above)
Comment (EgbertRijke) [reply src/category-theory/fully-faithful-maps-precategories.lagda.md:36]: Alright, I don't really agree with this kind of reasoning but let's move on:)

File: src/category-theory/preunivalent-categories.lagda.md (hunk 36 above)
Comment (EgbertRijke) [reply src/category-theory/preunivalent-categories.lagda.md:39]: To be sure, I was just asking you to mention the connection in a sentence, but yes, you can do that in another PR:)

Comment (fredrik-bakke) [reply src/category-theory/preunivalent-categories.lagda.md:39]: Yes, I just didn't want too much work on preunivalent categories to bleed into this one, since I will investigate it further in a separate PR (that I'm currently writing).

File: src/category-theory/fully-faithful-maps-precategories.lagda.md (hunk 23 above)
Comment (fredrik-bakke) [reply src/category-theory/fully-faithful-maps-precategories.lagda.md:36]: I agree with you. It feels like a slight linguistic sleight of hand.

Comment (EgbertRijke) [reply src/category-theory/fully-faithful-maps-precategories.lagda.md:36]: So, to me the goal is clarity of expression is the goal. One way to achieve that is through consistency throughout the library, but to me consistency is not the goal.

That's why I don't really buy the argument that because in one file you had some separate considerations to express yourself in a certain way, that this forces you to express yourself in that way in other files across the library. No, you just express your mathematics as clearly as you can, using fluent language because that's much easier to parse for humans, and you make exceptions when you need to. Anyway, it's already merged and it is fine as it is:)
